US09238640B2
To a solution of 2-amino-4,6-dimethoxy-benzamide (497 mg, 2.53 mmol) and 4-(4-hydroxybutoxy)-3,5-dimethyl benzaldehyde (660 mg, 2.53 mmol) in N,N-dimethyl acetamide (10 mL), NaHSO3 (58.5 wt %, 496 mg, 2.79 mmol) and p-TSA (96 mg, 0.50 mmol) were added and the reaction mixture was heated at 115° C. for 16 hours and then cooled to room temperature. The solvent was removed under reduced pressure. Water (100 mL) was added and stirred for 1 hour at room temperature. The solid separated was filtered and dried. The solid was further washed with diethyl ether to give product 2-[4-(4-hydroxy-butoxy)-3,5-dimethyl-phenyl]-5,7-dimethoxy-3H-quinazolin-4-one as a white solid. Yield: 1.69 g (82%).

reactant | 2-amino-4,6-dimethoxy-benzamide | 2.53 mmol, 497 mg | NC1=C(C(=O)N)C(=CC(=C1)OC)OC | C9H12N2O3
reactant | 4-(4-hydroxybutoxy)-3,5-dimethyl benzaldehyde | 2.53 mmol, 660 mg | OCCCCOC1=C(C=C(C=O)C=C1C)C | C13H18O3
reactant | NaHSO3 | 2.79 mmol, 496 mg | OS(=O)[O-].[Na+]
reactant | p-TSA | 0.50 mmol, 96 mg | CC=1C=CC(=CC1)S(=O)(=O)O | C7H8O3S
solvent | N,N-dimethyl acetamide | 10 mL | CN(C(C)=O)C | C4H9NO
product | 2-[4-(4-hydroxy-butoxy)-3,5-dimethyl-phenyl]-5,7-dimethoxy-3H-quinazolin-4-one | OCCCCOC1=C(C=C(C=C1C)C1=NC2=CC(=CC(=C2C(N1)=O)OC)OC)C | C22H26N2O5
